US05354755
Preparation of 1- (3,4-Dihydro-4-oxo-3-quinazolinyl)-3-(p-fluorophenyl)urea
4-Fluorophenyl isocyanate (0.74 mL, 6.51 mmol) is added to a mixture of 3-amino-4(3H)quinazolinone (1.00 g, 6.21 mmol) in 1,2-dichloroethane at reflux. The reaction mixture is heated at reflux for 18 hours, cooled to 0° C. and filtered. The filter cake is washed with ether and dried to give the title product as a white solid, 1.64 g (89%), mp 237°-238° C.

reactant | 4-Fluorophenyl isocyanate | 6.51 mmol, 0.74 mL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
reactant | 3-amino-4(3H)quinazolinone | 6.21 mmol, 1.00 g | NN1C=NC2=CC=CC=C2C1=O | C8H7N3O
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 1- (3,4-Dihydro-4-oxo-3-quinazolinyl)-3-(p-fluorophenyl)urea | O=C1N(C=NC2=CC=CC=C12)NC(=O)NC1=CC=C(C=C1)F | C15H11FN4O2
